US08293715B2
Synthesis of 3-(1-cyclohexyl-1-hydroxyethyl)phenol
By using 3′-hydroxyacetophenone (200 mg) and a 2 M solution of cyclohexylmagnesium chloride in diethyl ether (2.2 ml) as starting materials, the title compound (69.6 mg) was obtained in the same manner as that of Reference Example 69.

reactant | 3′-hydroxyacetophenone | 200 mg | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | cyclohexylmagnesium chloride | C1(CCCCC1)[Mg]Cl
solvent | diethyl ether | 2.2 ml | C(C)OCC | C4H10O
product | 3-(1-cyclohexyl-1-hydroxyethyl)phenol | 69.6 mg | C1(CCCCC1)C(C)(O)C=1C=C(C=CC1)O | C14H20O2
